US07622583B2
A mixture of 2-methylamino-3-nitro-benzoic acid and 10% Pd/C (300 mg) in EtOAc (5 mL) and EtOH (5 mL) was stirred in an atmosphere of hydrogen over night. The mixture was filtered though a pad of Celite and the filter cake was washed with EtOAc. The filtrate was concentrated under reduced pressure to provide 3-amino-2-methylamino-benzoic acid.

reactant | 2-methylamino-3-nitro-benzoic acid | CNC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C8H8N2O4
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 5 mL | CCO | C2H6O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | 3-amino-2-methylamino-benzoic acid | NC=1C(=C(C(=O)O)C=CC1)NC | C8H10N2O2
